US07652022B2
Stage 47.2: (4-Methoxy-phenyl)-[6-(4-nitro-phenoxy)-pyrimidin-4-yl]-amine
4-Chloro-6-(4-nitro-phenoxy)-pyrimidine (1 g, 3.97 mmol), p-anisidine (514 mg, 4.178 mmol), and diisopropylethylamine (0.715 mL, 4.178 mmol) dissolved in 2-propanol (27 mL) are stirred under reflux under Ar. After 16 h, p-anisidine (245 mg, 1.99 mmol) is added and the reaction mixture is stirred for additional 20 h. After cooling the reaction mixture down to rt, compound of Stage 47.2 precipitates as white crystals: M+H=339.1; 1H-NMR (400 MHz, DMSO-d6): 9.49 (s, 1H, NH-pyrimidinyl), 8.25 (s, 1H, pyrimidine), 8.23/7.40/6.90 (d/d/d/, 9.0 Hz, 2H/4H/2H, phenyl-oxolphenyl-OMe), 6.18 (s, 1H, pyrimidinyl), 3.72 (s, 3H, CH3—O); Rf (MeOH/CH2Cl2=1:9): 0.44; HPLC (System 1): 6.15 min.

reactant | 4-Chloro-6-(4-nitro-phenoxy)-pyrimidine | 3.97 mmol, 1 g | ClC1=NC=NC(=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C10H6ClN3O3
reactant | p-anisidine | 4.178 mmol, 514 mg | COC1=CC=C(C=C1)N | C7H9NO
reactant | diisopropylethylamine | 4.178 mmol, 0.715 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | p-anisidine | 1.99 mmol, 245 mg | COC1=CC=C(C=C1)N | C7H9NO
solvent | 2-propanol | 27 mL | CC(C)O | C3H8O
product | (4-Methoxy-phenyl)-[6-(4-nitro-phenoxy)-pyrimidin-4-yl]-amine | COC1=CC=C(C=C1)NC1=NC=NC(=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C17H14N4O4
